US09108966B2
A mixture of tert-butyl 4-(5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)piperazine-1-carboxylate (180 mg, 0.36 mmol) and 10% Pd(OH)2 (1.8 g) in THF (10 mL) was stirred under H2 at rt for 8.5 hrs. The reaction mixture was then filtered and concentrated to give tert-butyl 4-(5-((2S,5R)-6-hydroxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)piperazine-1-carboxylate (133 mg, 90%) as a white solid. ESI-MS (EI+, m/z): 411.17 [M+H]+.

reactant | tert-butyl 4-(5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)piperazine-1-carboxylate | 0.36 mmol, 180 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(S2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H32N6O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(OH)2 | 1.8 g | [OH-].[OH-].[Pd+2]
product | tert-butyl 4-(5-((2S,5R)-6-hydroxy-7-oxo-1,6-diaza-bicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)piperazine-1-carboxylate | 133 mg, 90% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(S2)N2CCN(CC2)C(=O)OC(C)(C)C | C17H26N6O4S
